US05349095
The procedure is that of Evans, J. Chem. Soc. (1956), pages 4691-4693. Dimethylformamide (15 mL) is added dropwise to a stirred solution of Grignard reagent prepared from 4.8 g of magnesium and 18.3 g of 4-bromobenzocyclobutene in 40 mL of tetrahydrofuran at 0° C. under a nitrogen atmosphere. The resulting mixture is warmed slowly to room temperature and poured into 100 mL of saturated ammonium chloride solution. The mixture is extracted with ethyl acetate and the organic extract is washed with water and brine and then dried over anhydrous magnesium sulfate. After removing solvent, the product is distilled under reduced pressure to give 11.9 g (90%) of 4-formylbenzocyclobutene, b 90° C./3.5 mm.

reactant | Dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | 4-bromobenzocyclobutene | 18.3 g | BrC1=C2C(CC2)=CC=C1 | C8H7Br
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-formylbenzocyclobutene | 11.9 g, 90% | C(=O)C1=C2C(CC2)=CC=C1 | C9H8O
